US07629358B2
Preparation 145: 3-{3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]phenyl}-N-(3,4-dichlorobenzyl) propanamide
The title compound was prepared from 3-{3-[2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl )phenyl]ethyl}amino)-2-methylpropyl]phenyl}propanoic acid (preparation 144) and 3,4-dichlorobenzylamine, using a method similar to that of preparation 38, as a clear oil in 64% yield. 1H NMR (400 MHz, CD3OD) δ: 7.40 (3H, m), 7.18 (1H, m), 7.08 (5H, m), 6.78 (1H, d), 4.61 (3H, m), 4.23 (2H, s), 2.90 (3H, m), 2.60 (5H, m), 1.08 (3H, s), 1.04 (3H, s), 0.81 (9H, s), 0.00 (3H, s), -0.18 (3H, s) ppm; LRMS ESI m/z 659 [M+H]+

reactant | 3-{3-[2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl )phenyl]ethyl}amino)-2-methylpropyl]phenyl}propanoic acid | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C=CC1)CCC(=O)O)(C)C)C1=CC(=C(C=C1)O)CO | C28H43NO5Si
reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | 3-{3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]phenyl}-N-(3,4-dichlorobenzyl) propanamide | 64% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C=CC1)CCC(=O)NCC1=CC(=C(C=C1)Cl)Cl)(C)C)C1=CC(=C(C=C1)O)CO | C35H48Cl2N2O4Si
